US04826869
3.2 g (130 mmol) of 50% sodium hydride were suspended, under nitrogen atmosphere, in 100 ml of anhydrous dimethylformamide. A solution of 12 g (55 mmol) of 2-(3'-nitrobenzoyl)pyrrole, prepared, for example, as described in Preparation 3A, in 50 ml of dimethylformamide was added thereto, at room temperature and under stirring. The resulting mixture was stirred for an additional hour and then treated dropwise with a solution of 11.2 ml (70 mmol) of ethyl iodide in 30 ml of dry dimethylformamide. The reaction mixture was stirred for an additional hour and then poured into 500 ml of ethyl acetate. The organic extract was washed with water (5×250 ml), dried and evaporated in vacuo. Crystallization of the residue from acetone-hexane afforded 10.55 g (78%) of 1-ethyl-2-(3'-nitrobenzoyl)pyrrole, the title compound.

reactant | sodium hydride | 130 mmol, 3.2 g | [H-].[Na+]
reactant | 2-(3'-nitrobenzoyl)pyrrole | 55 mmol, 12 g | [N+](=O)([O-])C=1C=C(C(=O)C=2NC=CC2)C=CC1 | C11H8N2O3
reactant | ethyl iodide | 70 mmol, 11.2 ml | C(C)I | C2H5I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-2-(3'-nitrobenzoyl)pyrrole | 10.55 g, 78% | C(C)N1C(=CC=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C13H12N2O3
